US08236806B2
1-(3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-(2-fluorophenyl)piperazine (Compound 72)
108 mg (83%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (80 mg, 0.257 mmol), 1-(2-fluorophenyl)piperazine (46 mg, 0.257 mmol), DIPEA (0.070 mL, 0.386 mmol) and NaBH(OAc)3 (163 mg, 0.771 mmol).

reactant | 3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.257 mmol, 80 mg | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15ClN2O
reactant | 1-(2-fluorophenyl)piperazine | 0.257 mmol, 46 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | DIPEA | 0.386 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.771 mmol, 163 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-(2-fluorophenyl)piperazine | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCCN1CCN(CC1)C1=C(C=CC=C1)F | C28H28ClFN4
